US07846964B2
A mixture of 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzoic acid (780 mg, 2.21 mmol), Pd/C (250 mg, 10% Pd) in ethanol (50 mL) and THF (10 mL) is stirred at rt for 2 h under 1.5 bar H2. The reaction mixture is filtered, the filtrate is evaporated and the crude product is purified by CC on silica gel eluting with EA to give 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-benzoic acid (751 mg) as a colourless foam; LC-MS: tR=1.04 min, [M+1]+=355.08; 1H NMR (CDCl3): δ 8.02 (d, J=7.6 Hz, 2H), 7.32 8d, J=7.6 Hz, 2H), 3.12-2.90 (m, 5H), 2.77 (d, J=18.8 Hz, 1H), 2.37 (s, 3H), 1.92-1.86 (m, 2H), 1.11 (s, 3H), 0.69 (s, 3H).

reactant | 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzoic acid | 2.21 mmol, 780 mg | O=C(C=CC1=CC=C(C(=O)O)C=C1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C21H20O3S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-benzoic acid | 751 mg | O=C(CCC1=CC=C(C(=O)O)C=C1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C21H22O3S
